US08455613B2
Step 2: 2,7-dibromo-9,9-bis(3,5-dihydroxybenzyl)-9H-fluorene
2,7-dibromo-9,9-bis(3,5-dimethoxybenzyl)-9H-fluorene (1.3 g, 2.08 mmol) was added to a round bottom flask charged with a stirbar and equipped with a rubber septum. The flask is purged with nitrogen for 10 min. Anhydrous dichloromethane (20 mL) is transferred to the flask via cannula and the mixture is stirred until the solids are completely dissolved. The solution is then cooled with a dry ice/acetone bath for 10 minutes. BBr3 (6.1 mL, 63.3 mmol) is added dropwise via cannula with constant stirring. The bath is allowed to warm to room temperature and the mixture is stirred overnight. The reaction is quenched with the slow addition of 125 mL of water. The solution is then extracted with 3 portions of ethyl acetate (50 mL). The organic layer is dried over MgSO3, filtered, and dried onto silica. Flash chromatography of the crude using ethyl acetate in dichloromethane gives an off-white crystalline solid (800 mg, 68% yield).

reactant | 2,7-dibromo-9,9-bis(3,5-dimethoxybenzyl)-9H-fluorene | 2.08 mmol, 1.3 g | BrC1=CC=2C(C3=CC(=CC=C3C2C=C1)Br)(CC1=CC(=CC(=C1)OC)OC)CC1=CC(=CC(=C1)OC)OC | C31H28Br2O4
reactant | BBr3 | 63.3 mmol, 6.1 mL | B(Br)(Br)Br | BBr3
product | 2,7-dibromo-9,9-bis(3,5-dihydroxybenzyl)-9H-fluorene | 800 mg, 68% yield | BrC1=CC=2C(C3=CC(=CC=C3C2C=C1)Br)(CC1=CC(=CC(=C1)O)O)CC1=CC(=CC(=C1)O)O | C27H20Br2O4
